US08198448B2
A solution of 2-fluoro-4-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)benzoic acid (0.192 g, 0.43 mmol), HATU (0.26 g, 0.69 mmol), and Hunig'sBase (0.30 ml, 1.7 mmol) in DMF (10.75 mL) was allowed to stir for 30 minutes. Ammonia (0.0093 ml, 0.43 mmol) was then bubbled through the mixture for another 30 minutes. The solution was concentrated in vacuo and purified using via flash chromatography, eluting with 5-10% MeOH/NH4OH in DCM. There remained an unidentified peak in the NMR, so the solid was triturated in MeCN, filtered, and quickly washed with DCM to wash through the impurities. Concentration in vacuo yielded 2-fluoro-4-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)benzamide as an off-white solid.

reactant | 2-fluoro-4-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)benzoic acid | 0.43 mmol, 0.192 g | FC1=C(C(=O)O)C=CC(=C1)C=1C=CC=2N(C1)C(=NN2)COC2=CC=NC1=CC(=CC=C21)OC | C24H17FN4O4
reactant | HATU | 0.69 mmol, 0.26 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Ammonia | 0.43 mmol, 0.0093 ml | N | H3N
solvent | DMF | 10.75 mL | CN(C)C=O | C3H7NO
product | 2-fluoro-4-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)benzamide | FC1=C(C(=O)N)C=CC(=C1)C=1C=CC=2N(C1)C(=NN2)COC2=CC=NC1=CC(=CC=C21)OC | C24H18FN5O3
